US07384934B2
(S)-2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-yl)-piperazin-2-yl]ethanol
In a manner such as that described in Example 300, combine 2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine hydrochloride (0.558 g, 1.89 mmol) and (S)-2-piperazin-2-yl-ethanol (0.493 g, 3.79 mmol) to obtain the title compound: mass spectrum (APCI): m/z=372.4 (M+1).

reactant | 2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine hydrochloride | 1.89 mmol, 0.558 g | Cl.C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (S)-2-piperazin-2-yl-ethanol | 3.79 mmol, 0.493 g | N1[C@H](CNCC1)CCO | C6H14N2O
product | (S)-2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-yl)-piperazin-2-yl]ethanol | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCO | C19H25N5OS
